US05948793
4a. 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine
(S)-1-Methyl-2-pyridinemethanol was reacted with triphenylphosphine, DEAD and 3-hydroxypyridine according to the procedure outlined in Example 1a The crude product was purified by flash chromatography (2×) using (10% MeOH/CHCl3) to remove the diethyl hydrazine dicarboxylate impurity and give a yellow oil in 31% yield. MS (DCI/NH3) m/e 193 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.32 (t, J=1.5 Hz, 1H), 8.22 (t, J=3 Hz, 1H), 7.24-7.2 (m, 2H), 4.14-4.05 (dd, J=9, 6 Hz, 1H), 4.00-3.93 (dd, J=9, 6 Hz, 1H), 3.243.14 (m, 1H, 2.81-2.7 (m, 1H), 2.54 (s, 3H), 2.44-2.31 (m, 1H, 2.14-2.00 (m, 1H, 1.96-1.71 (m, 3H).

reactant | (S)-1-Methyl-2-pyridinemethanol | CN1[C@@H](C=CC=C1)CO | C7H11NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
reactant | NH3 | N | H3N
product | 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine | 31% yield | CN1[C@@H](CCC1)COC=1C=NC=CC1 | C11H16N2O
